US07179912B2
To a suspension of 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone (45 mg, 0.190 mmol) and K2CO3 (130 mg, 0.948 mmol) in acetone (3 mL) was added 4-cyanobenzoyl chloride 33 mg, 0.20 mmol). The reaction vessel was sealed and heated to 60° C. for 14 h. After cooling to room temperature, water (about 2 mL) was added, and the mixture was allowed to stir for about 10 min. The contents were transferred to a separatory funnel and extracted with EtOAc (3×15 mL). The organic layer was dried (MgSO4) and concentrated. The concentrate was suspended in 50% EtOAc/hexanes and filtered to yield 1 mg (1%) of 4-(5-hydroxy-7-morpholin-4-yl-4-oxo-4H-chromen-2-yl)-benzonitrile.

reactant | 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone | 0.190 mmol, 45 mg | OC1=C(C(=CC(=C1)N1CCOCC1)O)C(C)=O | C12H15NO4
reactant | K2CO3 | 0.948 mmol, 130 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-cyanobenzoyl chloride | 0.20 mmol, 33 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | water | about 2 mL | O | H2O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 4-(5-hydroxy-7-morpholin-4-yl-4-oxo-4H-chromen-2-yl)-benzonitrile | 1 mg, 1% | OC1=C2C(C=C(OC2=CC(=C1)N1CCOCC1)C1=CC=C(C#N)C=C1)=O | C20H16N2O4
